US05856326
Step C: 1-(3-Amino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine trihydrochloride
A solution of 1-(3-tert-butoxycarbonylamino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine (0.313 g, 0.514 mmol) in methylene chloride (10 mL) was deprotected with trifluoroacetic acid (5 mL) and converted to the free base (255 mg) according to the procedure described in Example 1, Step E. Purification of 40 mg by preparative HPLC used gradient elution with solvents A and B (from Example 1; 95% to 5% solvent A). Ion exchange and lyophilization as described furnished the title compound as a white solid. FAB ms (m+1) 509. Anal. Calc. for C33H40N4O.0.05 H2O 4.45 HCl: C, 59.00; H, 6.68; N, 8.34. Found: C, 59.00; H, 6.51; N, 8.44.

reactant | 1-(3-tert-butoxycarbonylamino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine | 0.514 mmol, 0.313 g | C(C)(C)(C)OC(=O)NCC(CN1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC)NCC1=CC2=CC=CC=C2C=C1 | C38H48N4O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Amino-2-(2-naphthylmethylamino)prop-1-yl)-2(S)-butyl-4-(1-naphthoyl)piperazine trihydrochloride | Cl.Cl.Cl.NCC(CN1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC)NCC1=CC2=CC=CC=C2C=C1 | InChI=1S/C33H40N4O.3ClH/c1-2-3-13-30-24-37(33(38)32-15-8-12-27-10-6-7-14-31(27)32)19-18-36(30)23-29(21-34)35-22-25-16-17-26-9-4-5-11-28(26)20-25;;;/h4-12,14-17,20,29-30,35H,2-3,13,18-19,21-24,34H2,1H3;3*1H/t29?,30-;;;/m0.../s1
